2151-09-20 13:05:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis, hypotension, COPD, anemia,
   thrombocytopenia, acute renal failure, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has been hemodynamically stable off pressors. Good O2 sats on
   supplemental oxygen via nasal cannula. Afebrile. Abdominal pain
   improved. WBC improved.
   24 Hour Events:
 ERCP - At [**2151-9-19**] 08:00 AM
 INVASIVE VENTILATION - START [**2151-9-19**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2151-9-19**] 09:32 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-9-20**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2151-9-19**] 09:56 PM
   Other medications:
   protonix, atrovent, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-20**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 108 (95 - 112) bpm
   BP: 110/65(79) {87/50(62) - 141/72(93)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.9 kg (admission): 89.5 kg
   Height: 63 Inch
   CVP: 19 (11 - 26)mmHg
   Total In:
                                                                  1,212 mL
                                                                    420 mL
   PO:
   TF:
   IVF:
                                                                  1,212 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  1,192 mL
                                                                    690 mL
   Urine:
                                                                  1,192 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     20 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.35/37/91.[**Numeric Identifier 96**]/18/-4
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , Diminished: , No(t) Absent : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: diffusely, No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to):  X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   69 K/uL
   126 mg/dL
   2.5 mg/dL
   18 mEq/L
   4.4 mEq/L
   52 mg/dL
   108 mEq/L
   139 mEq/L
   29.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2151-9-18**]  04:02 PM
                             [**2151-9-18**]  10:45 PM
                             [**2151-9-18**]  11:47 PM
                             [**2151-9-19**]  02:51 AM
                             [**2151-9-19**]  04:32 AM
                             [**2151-9-19**]  06:01 AM
                             [**2151-9-19**]  04:00 PM
                             [**2151-9-20**]  04:04 AM
                             [**2151-9-20**]  04:15 AM
   WBC
   8.2
   16.2
   9.9
   6.0
   Hct
   32.7
   33.9
   31.0
   29.8
   Plt
   75
   86
   82
   69
   Cr
   2.7
   2.7
   2.8
   2.8
   2.5
   TCO2
   20
   21
   21
   21
   Glucose
   113
   117
   130
   109
   126
   Other labs: PT / PTT / INR:15.7/32.3/1.4, ALT / AST:98/81, Alk Phos / T
   Bili:160/6.1, Amylase / Lipase:81/25, Differential-Neuts:78.0 %,
   Band:12.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Albumin:3.4 g/dL, LDH:264 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
 CHOLELITHIASIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ANEMIA
   THROMBOCYTOPENIA
   ACIDOSIS
   COPD
   ============================
   Patient off vasopressin this AM. BP remains stable.
   AFebrile and WBC down. Continue antibiotics.
   Metabolic acidosis persists. Would start oral bicarbonate for renal
   failure.
   Add albuterol for his bronchospasm. Maintain negative fluid balance re:
   mild volume overload.
   Hct down slightly; not at transfusion threshold.  Platelet count
   stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-9-18**] 03:37 PM
   18 Gauge - [**2151-9-18**] 08:00 PM
   Arterial Line - [**2151-9-18**] 10:05 PM
   Multi Lumen - [**2151-9-19**] 12:33 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-09-21 08:54:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis, COPD, hypotension, anemia, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afebrile. Hemodynamically stable. O2 sats good on minimal supplemental
   O2. Wheezes persist.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-9-21**] 04:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-9-20**] 11:55 PM
   Morphine Sulfate - [**2151-9-20**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-9-21**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 103 (96 - 124) bpm
   BP: 115/62(79) {104/56(72) - 128/72(90)} mmHg
   RR: 24 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.9 kg (admission): 89.5 kg
   Height: 63 Inch
   CVP: 16 (12 - 25)mmHg
   Total In:
                                                                  2,124 mL
                                                                    298 mL
   PO:
                                                                    120 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  2,004 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    380 mL
   Urine:
                                                                  1,340 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    784 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : Diffuse I/E
   =[**2-14**], No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Oriented (to): X 3, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   82 K/uL
   100 mg/dL
   2.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   49 mg/dL
   112 mEq/L
   142 mEq/L
   27.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2151-9-18**]  04:02 PM
                             [**2151-9-18**]  10:45 PM
                             [**2151-9-18**]  11:47 PM
                             [**2151-9-19**]  02:51 AM
                             [**2151-9-19**]  04:32 AM
                             [**2151-9-19**]  06:01 AM
                             [**2151-9-19**]  04:00 PM
                             [**2151-9-20**]  04:04 AM
                             [**2151-9-20**]  04:15 AM
                             [**2151-9-21**]  02:17 AM
   WBC
   8.2
   16.2
   9.9
   6.0
   7.2
   Hct
   32.7
   33.9
   31.0
   29.8
   27.4
   Plt
   75
   86
   82
   69
   82
   Cr
   2.7
   2.7
   2.8
   2.8
   2.5
   2.1
   TCO2
   20
   21
   21
   21
   Glucose
   113
   117
   130
   109
   126
   100
   Other labs: PT / PTT / INR:13.1/28.7/1.1, ALT / AST:70/43, Alk Phos / T
   Bili:225/4.5, Amylase / Lipase:81/25, Differential-Neuts:78.0 %,
   Band:12.0 %, Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Albumin:3.4 g/dL, LDH:264 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
 CHOLELITHIASIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   COPD
   ANEMIA
   ==========
   Doing well. Pain improved. Afebrile. Complete course of antibioitics.
   Renal function stable. Creat improving.
   Persistent wheezes. Still possible that mild volume overload may be
   contributing to this. Continue bronchodilators. Would aim for fluid
   balance 0.5 L negative.
   Hct down slightly. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-9-18**] 08:00 PM
   Arterial Line - [**2151-9-18**] 10:05 PM
   Multi Lumen - [**2151-9-19**] 12:33 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes